US07456218B2
ethyl 3-[4-({2′,6′-dimethyl-4′-[(6-methylpyridin-2-yl)methoxy]biphenyl-3-yl}methoxy)-2-fluorophenyl]propanoate
To a solution of ethyl 3-{2-fluoro-4-[(4′-hydroxy-2′,6′-dimethylbiphenyl-3-yl)methoxy]phenyl}propanoate (1.2 g, 2.84 mmol), (6-methylpyridin-2-yl)methanol (0.39 g, 3.12 mmol) and triphenylphosphine (0.95 g, 3.61 mmol) in tetrahydrofuran (24 mL) was added diisopropyl azodicarboxylate (40% toluene solution, 1.54 mL, 3.12 mmol) at room temperature with stirring. The reaction mixture was stirred at room temperature for 12 hrs., and an equivalent amount of the aforementioned reagents ((6-methylpyridin-2-yl)methanol, triphenylphosphine and diisopropyl azodicarboxylate) were added. The mixture was further stirred at the same temperature for 12 hrs. The reaction mixture was concentrated under reduced pressure and the residue was purified by silica gel column chromatography (hexane/ethyl acetate=10/1-hexane/ethyl acetate=1/1) to give the title compound (1.3 g, yield 87%) as a colorless oil.

reactant | ethyl 3-{2-fluoro-4-[(4′-hydroxy-2′,6′-dimethylbiphenyl-3-yl)methoxy]phenyl}propanoate | 2.84 mmol, 1.2 g | FC1=C(C=CC(=C1)OCC=1C=C(C=CC1)C1=C(C=C(C=C1C)O)C)CCC(=O)OCC | C26H27FO4
reactant | (6-methylpyridin-2-yl)methanol | 3.12 mmol, 0.39 g | CC1=CC=CC(=N1)CO | C7H9NO
reactant | triphenylphosphine | 3.61 mmol, 0.95 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 3.12 mmol, 1.54 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 24 mL | O1CCCC1 | C4H8O
product | ethyl 3-[4-({2′,6′-dimethyl-4′-[(6-methylpyridin-2-yl)methoxy]biphenyl-3-yl}methoxy)-2-fluorophenyl]propanoate | 1.3 g, yield 87% | CC1=C(C(=CC(=C1)OCC1=NC(=CC=C1)C)C)C1=CC(=CC=C1)COC1=CC(=C(C=C1)CCC(=O)OCC)F | C33H34FNO4
